US04145430
(5R)-3-Ethylidene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
(5R)-7-oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene (2.4 mmole) in tetrahydrofuran (20 ml) was shaken with 5% platinum on charcoal (150 mg) under 1 atmosphere of hydrogen at room temperature for 1.5 hours. The catalyst was removed by filtration and was washed with tetrahydrofuran. The solvent was evaporated from the filtrate and the residue was chromatographed on silica gel using 1:7 ethyl acetate/petroleum ether (b.p. 60-80°). A mixture of E- and Z- isomers of the title compound was thus obtained as a colourless oil(40 mg).

reactant | (5R)-7-oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene | 2.4 mmole | O=C1C[C@H]2OC(=CN12)C=C | C7H7NO2
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | platinum on charcoal | 150 mg | [Pt] | Pt
product | (5R)-3-Ethylidene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 40 mg | C(C)=C1CN2C(C[C@H]2O1)=O | C7H9NO2
